* source REFERENCEDESIGN
E_U4         N11786 0 VALUE {LIMIT(V(0,N11778)*1E6,-15V,+15V)}
R_R18         N12174 N12274  1k TC=0,0 
R_R2         N11848 N11924  100k TC=0,0 
R_R13         N12074 N12086  10k TC=0,0 
E_U6         N12086 0 VALUE {LIMIT(V(N12422,N12074)*1E6,-15V,+15V)}
R_R12         N12054 N12062  10k TC=0,0 
E_U5         N12250 0 VALUE {LIMIT(V(0,N12054)*1E6,-15V,+15V)}
X_R19         N12274 VOUT VOUT POT PARAMS: SET=0.5 VALUE=20k
E_U8         VOUT 0 VALUE {LIMIT(V(0,N12274)*1E6,-15V,+15V)}
E_U7         N12174 0 VALUE {LIMIT(V(0,N12166)*1E6,-15V,+15V)}
C_C2         N12166 N12174  1u  TC=0,0 
R_R8         N11652 N11660  150k TC=0,0 
R_R17         N12166 N12174  80.6k TC=0,0 
D_D1         N12062 N12250 D1N4148_1 
R_R15         N12054 N12422  10k TC=0,0 
C_C1         N118020 N11660  0.01u  TC=0,0 
R_R11         N11786 N12054  10k TC=0,0 
R_R5         N11762 N11568  1M TC=0,0 
E_U3         N11762 0 VALUE {LIMIT(V(N11848,N11560)*1E6,-15V,+15V)}
R_R1         N11560 N11568  100k TC=0,0 
R_R4         MID_MUSCLE N11560  10k TC=0,0 
R_R3         END_MUSCLE N11848  10k TC=0,0 
D_D2         N12250 N12422 D1N4148_1 
R_R14         N12062 N12074  10k TC=0,0 
R_R9         N118020 N11778  150k TC=0,0 
R_R10         N11778 N11786  150k TC=0,0 
R_R16         N12086 N12166  80.6k TC=0,0 
R_R7         N11762 N11652  10k TC=0,0 
R_R6         N11924 0  1M TC=0,0 
E_U2         N11660 0 VALUE {LIMIT(V(0,N11652)*1E6,-15V,+15V)}
V_V2         END_MUSCLE 0  
+SIN 1.5mV 10mV 150Hz 0 0 0
E_E1         N156530 0 VALUE { (RND-0.5)*3mV }
V_V3         MID_MUSCLE N156530  
+SIN 1.5mV 10mV 100Hz 0 0 0
E_U12         N199002 0 VALUE {LIMIT(V(N20354,N20736)*1E6,-15V,+15V)}
E_U13         N199342 0 VALUE {LIMIT(V(N20732,N20347)*1E6,-15V,+15V)}
E_U14         N20297 0 VALUE {LIMIT(V(N20293,N20289)*1E6,-15V,+15V)}
R_R31         N199002 N20289  10k TC=0,0 
R_R32         N199342 N20293  10k TC=0,0 
R_R33         N20354 N199002  220k TC=0,0 
R_R34         N199342 N20347  220k TC=0,0 
R_R35         N20347 N20354  100k TC=0,0 
R_R36         N20289 N20297  200k TC=0,0 
R_R37         N20293 0  200k TC=0,0 
E_E3         N204740 0 VALUE { (RND-0.5)*3mV }
V_V6         N20736 N204740  
+SIN 1.5mV 10mV 100Hz 0 0 0
V_V7         N20732 0  
+SIN 1.5mV 10mV 150Hz 0 0 0
